US04564619
13.2 Grams of o-trifluoromethylbenzaldehyde, 14.6 g of 4-chlorobutyl acetoacetate and 8.8 g of methyl 3-aminocrotonate were added to 50 ml of isopropanol, and the whole mixture was refluxed by heating for 4 hours. The reaction mixture was concentrated, and the residue was purified by a silica gel column chromatography (eluant=chloroform) to yield 18.2 g of 4-chlorobutyl methyl 1,4-dihydro-2,6-dimethyl-4-(2-trifluoromethylphenyl)pyridine-3,5-dicarboxylate in the form of yellow oily substance.

reactant | o-trifluoromethylbenzaldehyde | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
reactant | 4-chlorobutyl acetoacetate | 14.6 g | C(CC(=O)C)(=O)OCCCCCl | C8H13ClO3
reactant | methyl 3-aminocrotonate | 8.8 g | N\C(=C/C(=O)OC)\C | C5H9NO2
solvent | isopropanol | 50 ml | C(C)(C)O | C3H8O
product | 4-chlorobutyl methyl 1,4-dihydro-2,6-dimethyl-4-(2-trifluoromethylphenyl)pyridine-3,5-dicarboxylate | 18.2 g | CC=1NC(=C(C(C1C(=O)OCCCCCl)C1=C(C=CC=C1)C(F)(F)F)C(=O)OC)C | C21H23ClF3NO4
